US06794389B2
(1R,2R)-N-tert-Butoxycarbonyl-2-benzyloxycyclohexylamine
A solution of 3.0 g of (1R,2R)-2-benzyloxycyclohexylamine in 30 mL of tetrahydrofuran was combined with 30 mL of a 2% aqueous solution of sodium hydroxide, and cooled to 0° C. This was treated dropwise with a solution of 4.46 g of di-tert-butyl dicarbonate in 30 mL of tetrahydrofuran, and stirred for 15 hours while gradually warming to room temperature. The reaction solution was combined with water, and extracted with ethyl acetate. After drying over magnesium sulfate, 4.45 g of the desirable compound was obtained by concentration.

reactant | (1R,2R)-2-benzyloxycyclohexylamine | 3.0 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](CCCC1)N | C13H19NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 4.46 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (1R,2R)-N-tert-Butoxycarbonyl-2-benzyloxycyclohexylamine | 4.45 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CCCC1)OCC1=CC=CC=C1 | C18H27NO3
